US07342031B2
To 10 ml of N,N-dimethylformamide, 835 mg of 3-methylthio-5-chloro-1,2,4-thiadiazole and 520 mg of glycerol formal were dissolved, and added 204 mg of sodium hydride (60% in oil) at about 0° C., followed by stirring at about 0° C. for 20 minutes and at room temperature for 30 minutes. Then, the reaction mixture was added to saturated sodium chloride aqueous solution, and extracted with tert-butylmethylether. After the organic layer was dried by anhyrous sodium salfate, the organic layer was concentrated, and the residue obtaind was subjected to silica gel column chromatography (hexane:ethyl acetate=20:1), followed preparative HPLC to obtain 250 mg of 5-(1,3-dioxolane-4-yl)methoxy-3-methylthio-1,2,4-thiadiazole.

reactant | 3-methylthio-5-chloro-1,2,4-thiadiazole | 835 mg | CSC1=NSC(=N1)Cl | C3H3ClN2S2
reactant | glycerol formal | 520 mg | C1C(OCO1)CO | C4H8O3
reactant | sodium hydride | 204 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(1,3-dioxolane-4-yl)methoxy-3-methylthio-1,2,4-thiadiazole | 250 mg | O1COC(C1)COC1=NC(=NS1)SC | C7H10N2O3S2
